US04032651
Anhydrous aluminum chloride (0.120 g.) is added to an ice-cooled solution of n-hexanophenone (21.1 g.) in anhydrous ether (20 ml.). The mixture is stirred and ice-cooled to a temperature below 10° C. during the dropwise addition of bromine (6.0 ml.) during 1 hour. The mixture is evaporated and the residual oil dissolved in ether (100 ml.). The solution obtained is washed first with a saturated aqueous solution of sodium thiosulphate (3× 30 ml.) and then with water. After drying (sodium sulphate) the ethereal solution is evaporated to give α-bromo-n-hexanophenone as an oil (28.0 g.) which is used without further purification.

reactant | aluminum chloride | 0.120 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | n-hexanophenone | 21.1 g | C(CCCCC)(=O)C1=CC=CC=C1 | C12H16O
reactant | bromine | 6.0 ml | BrBr | Br2
solvent | ether | 20 ml | CCOCC | C4H10O
product | α-bromo-n-hexanophenone | BrC(C(=O)C1=CC=CC=C1)CCCC | C12H15BrO
